US07521461B2
N-Isobutyl-N-[4-(trifluoromethyl)benzyl]amine (0.172 g, 0.746 mol) was dissolved in dry acetonitrile under N2 and N-ethyl-N,N-diisopropylamine (0.371 g, 2.867 mmol) was added. The mixture was stirred for 30 min and methyl 2-{2-[4-(2-chloro-2-oxoethoxy)phenyl]ethoxy}benzoate (0.200 g, 0.573 mmol) was added. The solution was stirred over night at room temperature. The crude was purified by flash chromatography (started with isocratic heptane/EtOAc 50/50 and then the EtOAc concentration was increased to 100%, (silica gel 60 0.004-0.063 mm). The product containing fractions were pooled and the EtOAc was removed by evaporation to give 0.242 g of methyl 2-{2-[4-(2-{isobutyl[4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]ethoxy}benzoate (yield 77.6%).

reactant | N-Isobutyl-N-[4-(trifluoromethyl)benzyl]amine | 0.746 mol, 0.172 g | C(C(C)C)NCC1=CC=C(C=C1)C(F)(F)F | C12H16F3N
reactant | N-ethyl-N,N-diisopropylamine | 2.867 mmol, 0.371 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methyl 2-{2-[4-(2-chloro-2-oxoethoxy)phenyl]ethoxy}benzoate | 0.573 mmol, 0.200 g | ClC(COC1=CC=C(C=C1)CCOC1=C(C(=O)OC)C=CC=C1)=O | C18H17ClO5
solvent | acetonitrile | C(C)#N | C2H3N
product | methyl 2-{2-[4-(2-{isobutyl[4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]ethoxy}benzoate | 0.242 g, yield 77.6% | C(C(C)C)N(C(COC1=CC=C(C=C1)CCOC1=C(C(=O)OC)C=CC=C1)=O)CC1=CC=C(C=C1)C(F)(F)F | C30H32F3NO5
